US04468392
Preparation of 3-[(4-chlorophenyl)thio]-azacycloheptan-2-one
54 g (1.0 mol) of sodium methylate and 144.6 g (1.0 mol) of 4-chlorothiophenol are initially introduced into 500 mL of methanol, and a methanolic solution of 192 g (1.0 mol) of α-bromocaprolactam is added dropwise at room temperature. After the exothermic reaction has ceased, the mixture is stirred for a further 3 hours at room temperature, the precipitated sodium bromide is then filtered off under suction and the mother liquor is evaporated down in vacuo. The precipitated crystals are filtered off under suction.

reactant | sodium methylate | 1.0 mol, 54 g | C[O-].[Na+]
reactant | 4-chlorothiophenol | 1.0 mol, 144.6 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | α-bromocaprolactam | 1.0 mol, 192 g | BrC1C(=O)NCCCC1 | C6H10BrNO
solvent | methanol | 500 mL | CO | CH4O
product | 3-[(4-chlorophenyl)thio]-azacycloheptan-2-one | ClC1=CC=C(C=C1)SC1C(NCCCC1)=O | C12H14ClNOS
